US05284859
C. 3-(4-(2-(2-ethoxyethoxy) ethoxy)-1,2,5-thiadiazol-3-yl)-1,2,5,6-tetrahydro-1-methylpyridine oxlate
Sodium borohydride (230 mg, 6 mmol) was added to a solution of 3-(4-(2-(2-ethoxyethoxy)ethoxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide (3 mmol) in ethanol (99.9%, 20 ml) and the reaction mixture was stirred at -10° C. for 1 h. After evaporation the residue was dissolved in water and extracted with ethyl acetate. The dried organic phases were evaporated and the residue purified by column chromatography (SiO2, eluent: ethyl acetate/methanol (4:1)). The title compound was crystallized as the oxalate salt from acetone to yield 290 mg. (M.p. 115°-116° C.; M+ : 313; Compound 43).

reactant | Sodium borohydride | 6 mmol, 230 mg | [BH4-].[Na+]
reactant | 3-(4-(2-(2-ethoxyethoxy)ethoxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | 3 mmol | [I-].C(C)OCCOCCOC=1C(=NSN1)C=1C=[N+](C=CC1)C
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-(4-(2-(2-ethoxyethoxy) ethoxy)-1,2,5-thiadiazol-3-yl)-1,2,5,6-tetrahydro-1-methylpyridine | C(C)OCCOCCOC=1C(=NSN1)C=1CN(CCC1)C | C14H23N3O3S
